* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.006933994487581921
Fd1_1 0 s1 V1 -0.346699724379096
Gr1_1_1 0 s1 x1_a1 0 56390504101.9419
Gr2_re_1_1 0 s1 x2_re_a1 0 1803809153.5476677
Gr2_im_1_1 0 s1 x2_im_a1 0 2780057685.314748
Gr3_re_1_1 0 s1 x3_re_a1 0 161539561.7129839
Gr3_im_1_1 0 s1 x3_im_a1 0 131572739.6588213
Gr4_re_1_1 0 s1 x4_re_a1 0 79660687.72444518
Gr4_im_1_1 0 s1 x4_im_a1 0 -39758169.33074735
Gr5_re_1_1 0 s1 x5_re_a1 0 -109505692.44052768
Gr5_im_1_1 0 s1 x5_im_a1 0 59110221.494997256
Gr6_re_1_1 0 s1 x6_re_a1 0 -986668.6315594001
Gr6_im_1_1 0 s1 x6_im_a1 0 -1516310.2723534543
Gr7_re_1_1 0 s1 x7_re_a1 0 -1492415.0523890757
Gr7_im_1_1 0 s1 x7_im_a1 0 -1416526.0754413474
Gr8_re_1_1 0 s1 x8_re_a1 0 -2210648.701916505
Gr8_im_1_1 0 s1 x8_im_a1 0 -1623052.037225402
Gd1_2 0 s1 p2 0 3.9344719960234654e-05
Fd1_2 0 s1 V2 0.0019672359980117326
Gr1_1_2 0 s1 x1_a2 0 -329912488.8379648
Gr2_re_1_2 0 s1 x2_re_a2 0 1765893.1390118399
Gr2_im_1_2 0 s1 x2_im_a2 0 -2162083.3872637986
Gr3_re_1_2 0 s1 x3_re_a2 0 12781661.975547498
Gr3_im_1_2 0 s1 x3_im_a2 0 1014834.7289464744
Gr4_re_1_2 0 s1 x4_re_a2 0 5629583.582871026
Gr4_im_1_2 0 s1 x4_im_a2 0 -21073254.56065211
Gr5_re_1_2 0 s1 x5_re_a2 0 -16679654.4362565
Gr5_im_1_2 0 s1 x5_im_a2 0 -2375619.089965153
Gr6_re_1_2 0 s1 x6_re_a2 0 261773.82035273174
Gr6_im_1_2 0 s1 x6_im_a2 0 -179522.5279663072
Gr7_re_1_2 0 s1 x7_re_a2 0 887971.4544802658
Gr7_im_1_2 0 s1 x7_im_a2 0 355248.4983334664
Gr8_re_1_2 0 s1 x8_re_a2 0 1230647.4447804189
Gr8_im_1_2 0 s1 x8_im_a2 0 191275.6598758993
Gd1_3 0 s1 p3 0 -6.249860964322845e-05
Fd1_3 0 s1 V3 -0.003124930482161423
Gr1_1_3 0 s1 x1_a3 0 589546047.2205476
Gr2_re_1_3 0 s1 x2_re_a3 0 -1569828.4559764285
Gr2_im_1_3 0 s1 x2_im_a3 0 10470773.929773761
Gr3_re_1_3 0 s1 x3_re_a3 0 -867791.51773164
Gr3_im_1_3 0 s1 x3_im_a3 0 745353.3489588939
Gr4_re_1_3 0 s1 x4_re_a3 0 -666750.9024694865
Gr4_im_1_3 0 s1 x4_im_a3 0 129977.79591353355
Gr5_re_1_3 0 s1 x5_re_a3 0 -1038435.6164264177
Gr5_im_1_3 0 s1 x5_im_a3 0 -580156.5042228295
Gr6_re_1_3 0 s1 x6_re_a3 0 7865624.040593571
Gr6_im_1_3 0 s1 x6_im_a3 0 -11298830.043557314
Gr7_re_1_3 0 s1 x7_re_a3 0 -7274742.108851827
Gr7_im_1_3 0 s1 x7_im_a3 0 -18910980.458129104
Gr8_re_1_3 0 s1 x8_re_a3 0 -21600374.138435986
Gr8_im_1_3 0 s1 x8_im_a3 0 -7979295.411597318
Gd1_4 0 s1 p4 0 -2.2138435610409234e-07
Fd1_4 0 s1 V4 -1.1069217805204618e-05
Gr1_1_4 0 s1 x1_a4 0 2050077.5589025305
Gr2_re_1_4 0 s1 x2_re_a4 0 -5999.200339400859
Gr2_im_1_4 0 s1 x2_im_a4 0 31769.025939334715
Gr3_re_1_4 0 s1 x3_re_a4 0 -2249.47216811161
Gr3_im_1_4 0 s1 x3_im_a4 0 3036.949830249086
Gr4_re_1_4 0 s1 x4_re_a4 0 -1833.5464211186138
Gr4_im_1_4 0 s1 x4_im_a4 0 517.3189511059849
Gr5_re_1_4 0 s1 x5_re_a4 0 -3119.638249467221
Gr5_im_1_4 0 s1 x5_im_a4 0 -2813.0658106581013
Gr6_re_1_4 0 s1 x6_re_a4 0 16570.965287550604
Gr6_im_1_4 0 s1 x6_im_a4 0 -69543.36596585315
Gr7_re_1_4 0 s1 x7_re_a4 0 -25697.832497964257
Gr7_im_1_4 0 s1 x7_im_a4 0 -64197.05253187487
Gr8_re_1_4 0 s1 x8_re_a4 0 -61239.98085923972
Gr8_im_1_4 0 s1 x8_im_a4 0 -56113.603526108185
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.3808038946536517e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 5.030415672712071e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 265376541317.30878
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -265376541317.30878
Rp2_im_im_a1 0 x2_im_a1 5.030415672712071e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 4.2029137059206497e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 181230064852.07162
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -181230064852.07162
Rp3_im_im_a1 0 x3_im_a1 4.2029137059206497e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 8.740715926212408e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 138960205840.4424
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -138960205840.4424
Rp4_im_im_a1 0 x4_im_a1 8.740715926212408e-10
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 8.056222240093577e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 84077751270.35327
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -84077751270.35327
Rp5_im_im_a1 0 x5_im_a1 8.056222240093577e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 2.315606031223313e-08
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 1389123142.7996109
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -1389123142.7996109
Rp6_im_im_a1 0 x6_im_a1 2.315606031223313e-08
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 1.8811882441408104e-08
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 585015595.3452263
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -585015595.3452263
Rp7_im_im_a1 0 x7_im_a1 1.8811882441408104e-08
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.8417822478933405e-08
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 193328776.1435361
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -193328776.1435361
Rp8_im_im_a1 0 x8_im_a1 1.8417822478933405e-08
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 3.9344947342004445e-05
Fd2_1 0 s2 V1 0.0019672473671002227
Gr1_2_1 0 s2 x1_a1 0 -329761148.17627686
Gr2_re_2_1 0 s2 x2_re_a1 0 1750860.722378854
Gr2_im_2_1 0 s2 x2_im_a1 0 -2141250.462624198
Gr3_re_2_1 0 s2 x3_re_a1 0 12780028.293029761
Gr3_im_2_1 0 s2 x3_im_a1 0 989959.0014331947
Gr4_re_2_1 0 s2 x4_re_a1 0 5571780.6055056555
Gr4_im_2_1 0 s2 x4_im_a1 0 -21070947.065986134
Gr5_re_2_1 0 s2 x5_re_a1 0 -16671090.397589872
Gr5_im_2_1 0 s2 x5_im_a1 0 -2344025.906642133
Gr6_re_2_1 0 s2 x6_re_a1 0 261374.3923224063
Gr6_im_2_1 0 s2 x6_im_a1 0 -179592.1343844042
Gr7_re_2_1 0 s2 x7_re_a1 0 887435.0297424789
Gr7_im_2_1 0 s2 x7_im_a1 0 355188.3416037853
Gr8_re_2_1 0 s2 x8_re_a1 0 1230171.2740187556
Gr8_im_2_1 0 s2 x8_im_a1 0 191458.55511518434
Gd2_2 0 s2 p2 0 -0.006954041976036337
Fd2_2 0 s2 V2 -0.34770209880181685
Gr1_2_2 0 s2 x1_a2 0 57584473311.29516
Gr2_re_2_2 0 s2 x2_re_a2 0 1624061433.10974
Gr2_im_2_2 0 s2 x2_im_a2 0 2886513306.725033
Gr3_re_2_2 0 s2 x3_re_a2 0 166061957.49607614
Gr3_im_2_2 0 s2 x3_im_a2 0 145321317.81615564
Gr4_re_2_2 0 s2 x4_re_a2 0 97399616.70918725
Gr4_im_2_2 0 s2 x4_im_a2 0 -40555011.111035995
Gr5_re_2_2 0 s2 x5_re_a2 0 -109247931.0494239
Gr5_im_2_2 0 s2 x5_im_a2 0 44335716.94673943
Gr6_re_2_2 0 s2 x6_re_a2 0 -981975.0942663715
Gr6_im_2_2 0 s2 x6_im_a2 0 -1434963.7251264476
Gr7_re_2_2 0 s2 x7_re_a2 0 -1383462.1461157808
Gr7_im_2_2 0 s2 x7_im_a2 0 -1386266.606327539
Gr8_re_2_2 0 s2 x8_re_a2 0 -2227563.7042980613
Gr8_im_2_2 0 s2 x8_im_a2 0 -1673182.016166854
Gd2_3 0 s2 p3 0 -1.8092159398245183e-07
Fd2_3 0 s2 V3 -9.046079699122593e-06
Gr1_2_3 0 s2 x1_a3 0 1738529.133415902
Gr2_re_2_3 0 s2 x2_re_a3 0 -3632.2311940658874
Gr2_im_2_3 0 s2 x2_im_a3 0 31617.9261980507
Gr3_re_2_3 0 s2 x3_re_a3 0 -2291.593861109343
Gr3_im_2_3 0 s2 x3_im_a3 0 1179.3846513141573
Gr4_re_2_3 0 s2 x4_re_a3 0 -2650.1425573655115
Gr4_im_2_3 0 s2 x4_im_a3 0 152.1376259809219
Gr5_re_2_3 0 s2 x5_re_a3 0 -3632.7972762439467
Gr5_im_2_3 0 s2 x5_im_a3 0 -2669.248414627631
Gr6_re_2_3 0 s2 x6_re_a3 0 19609.67469238539
Gr6_im_2_3 0 s2 x6_im_a3 0 -70457.7969387766
Gr7_re_2_3 0 s2 x7_re_a3 0 -25066.436781016782
Gr7_im_2_3 0 s2 x7_im_a3 0 -66103.00626555823
Gr8_re_2_3 0 s2 x8_re_a3 0 -61735.65697226292
Gr8_im_2_3 0 s2 x8_im_a3 0 -59049.434567786695
Gd2_4 0 s2 p4 0 -6.262746591016179e-05
Fd2_4 0 s2 V4 -0.0031313732955080896
Gr1_2_4 0 s2 x1_a4 0 590693428.0662749
Gr2_re_2_4 0 s2 x2_re_a4 0 -1573689.2552369882
Gr2_im_2_4 0 s2 x2_im_a4 0 10505640.7944732
Gr3_re_2_4 0 s2 x3_re_a4 0 -866842.6668334878
Gr3_im_2_4 0 s2 x3_im_a4 0 748123.7445300466
Gr4_re_2_4 0 s2 x4_re_a4 0 -667559.8039054716
Gr4_im_2_4 0 s2 x4_im_a4 0 130492.27024240611
Gr5_re_2_4 0 s2 x5_re_a4 0 -1040861.1944485691
Gr5_im_2_4 0 s2 x5_im_a4 0 -581703.8211466267
Gr6_re_2_4 0 s2 x6_re_a4 0 7795833.965251895
Gr6_im_2_4 0 s2 x6_im_a4 0 -11293134.022389926
Gr7_re_2_4 0 s2 x7_re_a4 0 -7283729.85434026
Gr7_im_2_4 0 s2 x7_im_a4 0 -18863395.183596037
Gr8_re_2_4 0 s2 x8_re_a4 0 -21568859.457204428
Gr8_im_2_4 0 s2 x8_im_a4 0 -7966574.312088943
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.3808038946536517e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 5.030415672712071e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 265376541317.30878
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -265376541317.30878
Rp2_im_im_a2 0 x2_im_a2 5.030415672712071e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 4.2029137059206497e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 181230064852.07162
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -181230064852.07162
Rp3_im_im_a2 0 x3_im_a2 4.2029137059206497e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 8.740715926212408e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 138960205840.4424
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -138960205840.4424
Rp4_im_im_a2 0 x4_im_a2 8.740715926212408e-10
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 8.056222240093577e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 84077751270.35327
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -84077751270.35327
Rp5_im_im_a2 0 x5_im_a2 8.056222240093577e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 2.315606031223313e-08
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 1389123142.7996109
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -1389123142.7996109
Rp6_im_im_a2 0 x6_im_a2 2.315606031223313e-08
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 1.8811882441408104e-08
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 585015595.3452263
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -585015595.3452263
Rp7_im_im_a2 0 x7_im_a2 1.8811882441408104e-08
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.8417822478933405e-08
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 193328776.1435361
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -193328776.1435361
Rp8_im_im_a2 0 x8_im_a2 1.8417822478933405e-08
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 -6.25125813751052e-05
Fd3_1 0 s3 V1 -0.0031256290687552606
Gr1_3_1 0 s3 x1_a1 0 589345441.5497047
Gr2_re_3_1 0 s3 x2_re_a1 0 -1555423.1359859894
Gr2_im_3_1 0 s3 x2_im_a1 0 10471835.557957612
Gr3_re_3_1 0 s3 x3_re_a1 0 -865776.5837563868
Gr3_im_3_1 0 s3 x3_im_a1 0 745651.2138846412
Gr4_re_3_1 0 s3 x4_re_a1 0 -665687.0563712157
Gr4_im_3_1 0 s3 x4_im_a1 0 130658.3270905966
Gr5_re_3_1 0 s3 x5_re_a1 0 -1037940.9432924446
Gr5_im_3_1 0 s3 x5_im_a1 0 -579495.3072277756
Gr6_re_3_1 0 s3 x6_re_a1 0 7856934.527449434
Gr6_im_3_1 0 s3 x6_im_a1 0 -11290761.454352248
Gr7_re_3_1 0 s3 x7_re_a1 0 -7273335.381840987
Gr7_im_3_1 0 s3 x7_im_a1 0 -18893317.647615034
Gr8_re_3_1 0 s3 x8_re_a1 0 -21586790.13111002
Gr8_im_3_1 0 s3 x8_im_a1 0 -7966309.317414485
Gd3_2 0 s3 p2 0 -2.1730683725204743e-07
Fd3_2 0 s3 V2 -1.0865341862602371e-05
Gr1_3_2 0 s3 x1_a2 0 1980769.1378502243
Gr2_re_3_2 0 s3 x2_re_a2 0 2857.51355077912
Gr2_im_3_2 0 s3 x2_im_a2 0 25758.05019881716
Gr3_re_3_2 0 s3 x3_re_a2 0 -2299.821351783218
Gr3_im_3_2 0 s3 x3_im_a2 0 1867.5673002744222
Gr4_re_3_2 0 s3 x4_re_a2 0 -1841.6275012787225
Gr4_im_3_2 0 s3 x4_im_a2 0 1161.382341837666
Gr5_re_3_2 0 s3 x5_re_a2 0 -3327.8703220308216
Gr5_im_3_2 0 s3 x5_im_a2 0 -2792.618381719428
Gr6_re_3_2 0 s3 x6_re_a2 0 19665.874292930865
Gr6_im_3_2 0 s3 x6_im_a2 0 -70372.02480356774
Gr7_re_3_2 0 s3 x7_re_a2 0 -25081.52140248939
Gr7_im_3_2 0 s3 x7_im_a2 0 -65986.09654458244
Gr8_re_3_2 0 s3 x8_re_a2 0 -61727.20141900677
Gr8_im_3_2 0 s3 x8_im_a2 0 -59088.93436341585
Gd3_3 0 s3 p3 0 0.0018840507613685602
Fd3_3 0 s3 V3 0.094202538068428
Gr1_3_3 0 s3 x1_a3 0 -12579032951.468973
Gr2_re_3_3 0 s3 x2_re_a3 0 -317266234.1432079
Gr2_im_3_3 0 s3 x2_im_a3 0 -71854042.82826744
Gr3_re_3_3 0 s3 x3_re_a3 0 3133044.904854358
Gr3_im_3_3 0 s3 x3_im_a3 0 18074221.24162423
Gr4_re_3_3 0 s3 x4_re_a3 0 -5696933.7203846425
Gr4_im_3_3 0 s3 x4_im_a3 0 -8690217.819186652
Gr5_re_3_3 0 s3 x5_re_a3 0 -4193191.969786482
Gr5_im_3_3 0 s3 x5_im_a3 0 -23686310.023261253
Gr6_re_3_3 0 s3 x6_re_a3 0 328575.6866012678
Gr6_im_3_3 0 s3 x6_im_a3 0 291188.6400877948
Gr7_re_3_3 0 s3 x7_re_a3 0 -10813.616856176104
Gr7_im_3_3 0 s3 x7_im_a3 0 -569442.2528757976
Gr8_re_3_3 0 s3 x8_re_a3 0 -411868.673545944
Gr8_im_3_3 0 s3 x8_im_a3 0 31435.666750158125
Gd3_4 0 s3 p4 0 -2.457433983075217e-06
Fd3_4 0 s3 V4 -0.00012287169915376086
Gr1_3_4 0 s3 x1_a4 0 20741708.356788352
Gr2_re_3_4 0 s3 x2_re_a4 0 54431.132179287066
Gr2_im_3_4 0 s3 x2_im_a4 0 255285.8476314815
Gr3_re_3_4 0 s3 x3_re_a4 0 -34899.28908559937
Gr3_im_3_4 0 s3 x3_im_a4 0 33757.25077843378
Gr4_re_3_4 0 s3 x4_re_a4 0 -32429.151171650676
Gr4_im_3_4 0 s3 x4_im_a4 0 -21546.366308322795
Gr5_re_3_4 0 s3 x5_re_a4 0 -65844.11864070757
Gr5_im_3_4 0 s3 x5_im_a4 0 3862.551308683967
Gr6_re_3_4 0 s3 x6_re_a4 0 318609.0907007356
Gr6_im_3_4 0 s3 x6_im_a4 0 -201798.5249785539
Gr7_re_3_4 0 s3 x7_re_a4 0 9044.983364576734
Gr7_im_3_4 0 s3 x7_im_a4 0 -813973.7692921619
Gr8_re_3_4 0 s3 x8_re_a4 0 -923148.9493609795
Gr8_im_3_4 0 s3 x8_im_a4 0 -540804.7346174566
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.07071067811865475
Fx1_a3 0 x1_a3 V3 3.5355339059327378
Rp1_a3 0 x1_a3 2.3808038946536517e-12
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 5.030415672712071e-11
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 265376541317.30878
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -265376541317.30878
Rp2_im_im_a3 0 x2_im_a3 5.030415672712071e-11
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 4.2029137059206497e-10
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 181230064852.07162
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -181230064852.07162
Rp3_im_im_a3 0 x3_im_a3 4.2029137059206497e-10
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.1414213562373095
Fx4_re_a3 0 x4_re_a3 V3 7.0710678118654755
Rp4_re_re_a3 0 x4_re_a3 8.740715926212408e-10
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 138960205840.4424
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -138960205840.4424
Rp4_im_im_a3 0 x4_im_a3 8.740715926212408e-10
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.1414213562373095
Fx5_re_a3 0 x5_re_a3 V3 7.0710678118654755
Rp5_re_re_a3 0 x5_re_a3 8.056222240093577e-10
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 84077751270.35327
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -84077751270.35327
Rp5_im_im_a3 0 x5_im_a3 8.056222240093577e-10
Cx6_re_a3 x6_re_a3 0 1.0
Gx6_re_a3 0 x6_re_a3 p3 0 0.1414213562373095
Fx6_re_a3 0 x6_re_a3 V3 7.0710678118654755
Rp6_re_re_a3 0 x6_re_a3 2.315606031223313e-08
Gp6_re_im_a3 0 x6_re_a3 x6_im_a3 0 1389123142.7996109
Cx6_im_a3 x6_im_a3 0 1.0
Gp6_im_re_a3 0 x6_im_a3 x6_re_a3 0 -1389123142.7996109
Rp6_im_im_a3 0 x6_im_a3 2.315606031223313e-08
Cx7_re_a3 x7_re_a3 0 1.0
Gx7_re_a3 0 x7_re_a3 p3 0 0.1414213562373095
Fx7_re_a3 0 x7_re_a3 V3 7.0710678118654755
Rp7_re_re_a3 0 x7_re_a3 1.8811882441408104e-08
Gp7_re_im_a3 0 x7_re_a3 x7_im_a3 0 585015595.3452263
Cx7_im_a3 x7_im_a3 0 1.0
Gp7_im_re_a3 0 x7_im_a3 x7_re_a3 0 -585015595.3452263
Rp7_im_im_a3 0 x7_im_a3 1.8811882441408104e-08
Cx8_re_a3 x8_re_a3 0 1.0
Gx8_re_a3 0 x8_re_a3 p3 0 0.1414213562373095
Fx8_re_a3 0 x8_re_a3 V3 7.0710678118654755
Rp8_re_re_a3 0 x8_re_a3 1.8417822478933405e-08
Gp8_re_im_a3 0 x8_re_a3 x8_im_a3 0 193328776.1435361
Cx8_im_a3 x8_im_a3 0 1.0
Gp8_im_re_a3 0 x8_im_a3 x8_re_a3 0 -193328776.1435361
Rp8_im_im_a3 0 x8_im_a3 1.8417822478933405e-08
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 -1.949793096721402e-07
Fd4_1 0 s4 V1 -9.74896548360701e-06
Gr1_4_1 0 s4 x1_a1 0 1901757.1945526612
Gr2_re_4_1 0 s4 x2_re_a1 0 2825.2722822127016
Gr2_im_4_1 0 s4 x2_im_a1 0 35614.5149533249
Gr3_re_4_1 0 s4 x3_re_a1 0 -5796.612230315902
Gr3_im_4_1 0 s4 x3_im_a1 0 2311.6971736342743
Gr4_re_4_1 0 s4 x4_re_a1 0 -2488.680636351902
Gr4_im_4_1 0 s4 x4_im_a1 0 335.7159864101218
Gr5_re_4_1 0 s4 x5_re_a1 0 -2811.3971104787456
Gr5_im_4_1 0 s4 x5_im_a1 0 -2394.054752463045
Gr6_re_4_1 0 s4 x6_re_a1 0 16495.655066101663
Gr6_im_4_1 0 s4 x6_im_a1 0 -69451.9252897219
Gr7_re_4_1 0 s4 x7_re_a1 0 -25694.58646937638
Gr7_im_4_1 0 s4 x7_im_a1 0 -64232.60058969979
Gr8_re_4_1 0 s4 x8_re_a1 0 -61468.8225269943
Gr8_im_4_1 0 s4 x8_im_a1 0 -56481.380308444524
Gd4_2 0 s4 p2 0 -6.261797924363555e-05
Fd4_2 0 s4 V2 -0.0031308989621817774
Gr1_4_2 0 s4 x1_a2 0 590338094.4196426
Gr2_re_4_2 0 s4 x2_re_a2 0 -1581038.2877036694
Gr2_im_4_2 0 s4 x2_im_a2 0 10483740.956374273
Gr3_re_4_2 0 s4 x3_re_a2 0 -866135.4246553256
Gr3_im_4_2 0 s4 x3_im_a2 0 746706.794086143
Gr4_re_4_2 0 s4 x4_re_a2 0 -667039.8467858455
Gr4_im_4_2 0 s4 x4_im_a2 0 130455.50925956755
Gr5_re_4_2 0 s4 x5_re_a2 0 -1039911.956415861
Gr5_im_4_2 0 s4 x5_im_a2 0 -579936.0527329651
Gr6_re_4_2 0 s4 x6_re_a2 0 7791519.56396528
Gr6_im_4_2 0 s4 x6_im_a2 0 -11286948.490884176
Gr7_re_4_2 0 s4 x7_re_a2 0 -7286662.550455461
Gr7_im_4_2 0 s4 x7_im_a2 0 -18848388.47023928
Gr8_re_4_2 0 s4 x8_re_a2 0 -21548147.989114214
Gr8_im_4_2 0 s4 x8_im_a2 0 -7937005.998863362
Gd4_3 0 s4 p3 0 -2.493214405003774e-06
Fd4_3 0 s4 V3 -0.00012466072025018872
Gr1_4_3 0 s4 x1_a3 0 21020177.096392456
Gr2_re_4_3 0 s4 x2_re_a3 0 70188.28249490107
Gr2_im_4_3 0 s4 x2_im_a3 0 263721.46513101854
Gr3_re_4_3 0 s4 x3_re_a3 0 -33365.13796987541
Gr3_im_4_3 0 s4 x3_im_a3 0 34215.14969969956
Gr4_re_4_3 0 s4 x4_re_a3 0 -31752.43871310737
Gr4_im_4_3 0 s4 x4_im_a3 0 -21434.30248183972
Gr5_re_4_3 0 s4 x5_re_a3 0 -65405.21818341657
Gr5_im_4_3 0 s4 x5_im_a3 0 5065.063834251107
Gr6_re_4_3 0 s4 x6_re_a3 0 318681.984056435
Gr6_im_4_3 0 s4 x6_im_a3 0 -201853.4068656029
Gr7_re_4_3 0 s4 x7_re_a3 0 9086.116450180132
Gr7_im_4_3 0 s4 x7_im_a3 0 -814515.201994792
Gr8_re_4_3 0 s4 x8_re_a3 0 -923529.4692535952
Gr8_im_4_3 0 s4 x8_im_a3 0 -539940.3696927897
Gd4_4 0 s4 p4 0 0.0017399342255669783
Fd4_4 0 s4 V4 0.08699671127834892
Gr1_4_4 0 s4 x1_a4 0 -10876044871.401747
Gr2_re_4_4 0 s4 x2_re_a4 0 -215475890.82089332
Gr2_im_4_4 0 s4 x2_im_a4 0 132394525.46569106
Gr3_re_4_4 0 s4 x3_re_a4 0 20037694.860585548
Gr3_im_4_4 0 s4 x3_im_a4 0 6139055.557593235
Gr4_re_4_4 0 s4 x4_re_a4 0 -8954206.240337508
Gr4_im_4_4 0 s4 x4_im_a4 0 6415227.237688122
Gr5_re_4_4 0 s4 x5_re_a4 0 -10187348.735041697
Gr5_im_4_4 0 s4 x5_im_a4 0 -10903396.713941565
Gr6_re_4_4 0 s4 x6_re_a4 0 441153.5637763561
Gr6_im_4_4 0 s4 x6_im_a4 0 382367.2572092449
Gr7_re_4_4 0 s4 x7_re_a4 0 34006.07905305599
Gr7_im_4_4 0 s4 x7_im_a4 0 -699592.4908730158
Gr8_re_4_4 0 s4 x8_re_a4 0 -441241.69516008755
Gr8_im_4_4 0 s4 x8_im_a4 0 -59045.62808606284
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.07071067811865475
Fx1_a4 0 x1_a4 V4 3.5355339059327378
Rp1_a4 0 x1_a4 2.3808038946536517e-12
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 5.030415672712071e-11
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 265376541317.30878
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -265376541317.30878
Rp2_im_im_a4 0 x2_im_a4 5.030415672712071e-11
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 4.2029137059206497e-10
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 181230064852.07162
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -181230064852.07162
Rp3_im_im_a4 0 x3_im_a4 4.2029137059206497e-10
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.1414213562373095
Fx4_re_a4 0 x4_re_a4 V4 7.0710678118654755
Rp4_re_re_a4 0 x4_re_a4 8.740715926212408e-10
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 138960205840.4424
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -138960205840.4424
Rp4_im_im_a4 0 x4_im_a4 8.740715926212408e-10
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.1414213562373095
Fx5_re_a4 0 x5_re_a4 V4 7.0710678118654755
Rp5_re_re_a4 0 x5_re_a4 8.056222240093577e-10
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 84077751270.35327
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -84077751270.35327
Rp5_im_im_a4 0 x5_im_a4 8.056222240093577e-10
Cx6_re_a4 x6_re_a4 0 1.0
Gx6_re_a4 0 x6_re_a4 p4 0 0.1414213562373095
Fx6_re_a4 0 x6_re_a4 V4 7.0710678118654755
Rp6_re_re_a4 0 x6_re_a4 2.315606031223313e-08
Gp6_re_im_a4 0 x6_re_a4 x6_im_a4 0 1389123142.7996109
Cx6_im_a4 x6_im_a4 0 1.0
Gp6_im_re_a4 0 x6_im_a4 x6_re_a4 0 -1389123142.7996109
Rp6_im_im_a4 0 x6_im_a4 2.315606031223313e-08
Cx7_re_a4 x7_re_a4 0 1.0
Gx7_re_a4 0 x7_re_a4 p4 0 0.1414213562373095
Fx7_re_a4 0 x7_re_a4 V4 7.0710678118654755
Rp7_re_re_a4 0 x7_re_a4 1.8811882441408104e-08
Gp7_re_im_a4 0 x7_re_a4 x7_im_a4 0 585015595.3452263
Cx7_im_a4 x7_im_a4 0 1.0
Gp7_im_re_a4 0 x7_im_a4 x7_re_a4 0 -585015595.3452263
Rp7_im_im_a4 0 x7_im_a4 1.8811882441408104e-08
Cx8_re_a4 x8_re_a4 0 1.0
Gx8_re_a4 0 x8_re_a4 p4 0 0.1414213562373095
Fx8_re_a4 0 x8_re_a4 V4 7.0710678118654755
Rp8_re_re_a4 0 x8_re_a4 1.8417822478933405e-08
Gp8_re_im_a4 0 x8_re_a4 x8_im_a4 0 193328776.1435361
Cx8_im_a4 x8_im_a4 0 1.0
Gp8_im_re_a4 0 x8_im_a4 x8_re_a4 0 -193328776.1435361
Rp8_im_im_a4 0 x8_im_a4 1.8417822478933405e-08
.ENDS s_equivalent
